US04962103
(2S,4R)-1-(p-Nitrobenzyloxycarbonyl)-2-hydroxymethyl-4-benzoyloxypyrrolidine (1.09 g), imidazole (0.46 g) and t-butyldimethylsilyl chloride (0.49 g) were dissolved in 16.5 ml of dry dimethylformamide. The resulting mixture was stirred at room temperature for 2 hours, diluted with ethyl acetate, washed with water, dried over anhydrous magnesium sulfate and distilled to remove the solvent. The residue was purified by silica gel chromatography to obtain (2S,4R)-1-(p-nitrobenzyloxycarbonyl)-2-t-butyldimethylsilyloxymethyl-4-benzoyloxypyrrolidine.

reactant | (2S,4R)-1-(p-Nitrobenzyloxycarbonyl)-2-hydroxymethyl-4-benzoyloxypyrrolidine | 1.09 g | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@H](C2)OC(C2=CC=CC=C2)=O)CO)C=C1 | C20H20N2O7
reactant | imidazole | 0.46 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylsilyl chloride | 0.49 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | dimethylformamide | 16.5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2S,4R)-1-(p-nitrobenzyloxycarbonyl)-2-t-butyldimethylsilyloxymethyl-4-benzoyloxypyrrolidine | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@H](C2)OC(C2=CC=CC=C2)=O)CO[Si](C)(C)C(C)(C)C)C=C1 | C26H34N2O7Si
